US06699873B1
As depicted in Scheme 4, cyclic aridines of the invention can be prepared by reacting 2-substituted benzonitrile with hydrogen sulfide to form a thiobenzamide. The resulting thiobenzamide is then treated with iodoethane to give a thiobenzimidic acid ethyl ester. In the presence of hydrochloric acid, the thiobenzimidic acid ethyl ester is suspended in tetrahydrofuran and treated with hydrogen sulfide. The resulting dithiobenzoic acid ethyl ester is then heated with various diamines, in the presence or absence of an added catalyst such as silver trifluoroacetate, to give cyclic amidines.

reactant | thiobenzamide | C(C1=CC=CC=C1)(=S)N | C7H7NS
reactant | iodoethane | ICC | C2H5I
product | thiobenzimidic acid ethyl ester | C(C)SC(C1=CC=CC=C1)=N | C9H11NS
